Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting, diarrhea, syncope
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ woman with a history of psoriatic 
arthritis on methotrexate who presented with acute onset nausea, 
vomiting, and diarrhea since the morning of admission. She 
reports eating tuna with mayonnaise from ___ one day 
prior to admission. On the morning of admission she had cold 
sweats upon awakening. She then developed profuse nonbloody 
watery diarrhea, nausea, and vomiting. She denies hematemesis. 
She began to feel dehydrated and while walking to the bathroom 
to vomit had syncope x2. She denies premonition of syncope but 
did report that she was profusely sweaty, feeling light-headed, 
and dehydrated prior to awakening on the floor. She denies loss 
of bowel/bladder function or tongue biting. The syncopal 
episodes were unwitnessed. Upon awakening she called EMS.  
.  
In the emergency department, initial vitals: 97.8 86 88/40 14 
100. Exam was benign with no abdominal tenderness. Initial 
lactate was elevated at 4.5->3.0 with 3L NS and white count 26 
with 8% bands. Blood cultures were drawn. UA positive for 
bacteria. Initial set of cardiac enzymes negative. EKG showed 
unchanged. Received mucomyst or NS (in a trial) X 2 in ED, Zosyn 
for positive UA. CT Abd showed no colitis or diverticulitis. BS 
was >500. Recived 10units insulin (regular) and lantus. No 
further vomiting or diarrhea and tolerating PO.  
.  
VS prior to transfer to floor T:98.1 HR 84 BP 112/79 RR 16 99% 
RA  
.  
On arrival to floor patient c/o severely dry mouth. Diarrhea, 
nausea, and vomiting had resolved. She had a small amount of RUQ 
abdominal pain that she had noticed after retching and thought 
might be ___ throwing up very profusely.  

 
Past Medical History:
Type 2 diabetes  
Hypertension
CAD: cardiac catheterization on ___ showed three vessel 
disease involving her LAD, right coronary, and circumflex  
coronary artery. The patient received percutaneous transluminal 
coronary angioplasties to the LAD and right coronary artery as 
well as one stent to the mid LAD lesion of 90% and two stents to 
the proximal right coronary artery with no complications. During 
this cardiac catheterization, through left ventriculography, the 
patient's ejection fraction was noted to be 25% with evidence of 
anterolateral akinesis and otherwise hypokinetic globally. A 
repeat cath in ___ showed no significant stenoses.  
Hyperlipidemia  
Rheumatoid Arthritis  
Asthma  
Paget disease of the nipple in ___, s/p resection of nipple-  

areolar complex and radiation treatments  
Cholecystectomy  
Mild transaminitis and u/s consistent with NASH in ___
 
Social History:
___
Family History:
Father suffered his first myocardial infarction at the age of 
___. He died from a myocardial infarction at the age of ___. Her 
mother had a pacemaker inserted  
at the age of ___ and died at the age of ___.  

 
Physical Exam:
PHYSICAL EXAM ON DAY OF DISCHARGE:
VITALS: T 98.6 BP 166/80 HR 103 RR 20 O2 98RA  
GENERAL: NAD, lying bed, conversant, pleasant  
HEENT: PERRL, MMM, oropharynx clear, sclera anicteric  
NECK: No LAD, No thyromegally, trachea midline  
CV: RRR, distant heart sounds, no m/g/r, S1 and S2 appreciated  
CHEST: CTA bilaterally, no wheezes or rhonchi  
ABD: soft, some tenderness of RUQ along rib--no ecchymosis, 
non-distended, +BS, no HSM noted however difficult to assess ___ 
body habitus, no rebound tenderness, no guarding, no suprapubic 
fullness  
EXT: no c/c/e, radial and DP pulses palpable bilaterally  
NEURO: CN II-XII intact, alert, oriented x 3, strength ___ 
throughout, sensation intact throughout, gait not assessed, no 
dysdiadochokinesis.  

 
Pertinent Results:
CBC
___ 04:45PM BLOOD WBC-26.0*# RBC-4.12* Hgb-13.2 Hct-40.7 
MCV-99* MCH-32.0 MCHC-32.4 RDW-14.6 Plt ___
___ 06:10AM BLOOD WBC-13.7* RBC-3.12* Hgb-9.8*# Hct-29.2*# 
MCV-94 MCH-31.3 MCHC-33.4 RDW-15.2 Plt ___
___ 04:45PM BLOOD Neuts-88* Bands-8* Lymphs-1* Monos-3 
Eos-0 Baso-0 ___ Myelos-0

CHEMISTRY
___ 04:45PM BLOOD Glucose-514* UreaN-37* Creat-1.6* Na-138 
K-5.1 Cl-98 HCO3-23 AnGap-22*
___ 10:40PM BLOOD Glucose-330* UreaN-36* Creat-1.5* Na-140 
K-4.4 Cl-103 HCO3-22 AnGap-19
___ 06:10AM BLOOD Glucose-157* UreaN-34* Creat-1.3* Na-143 
K-3.8 Cl-108 HCO3-24 AnGap-15
___ 06:10AM BLOOD Calcium-8.1* Phos-4.3 Mg-1.7
___ 04:57PM BLOOD Lactate-4.5*
___ 10:49PM BLOOD Glucose-301* Lactate-3.0*

LFTS/CARDIAC ENZYMES
___ 06:10AM BLOOD ALT-43* AST-25 CK(CPK)-48 AlkPhos-57 
TotBili-0.4
___ 10:40PM BLOOD CK(CPK)-39
___ 04:45PM BLOOD ALT-55* AST-38 CK(CPK)-40 AlkPhos-76 
TotBili-0.7
___ 04:45PM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 10:40PM BLOOD cTropnT-<0.01
___ 06:10AM BLOOD CK-MB-NotDone cTropnT-<0.01

URINE STUDIES
___ 10:40PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:40PM URINE Blood-MOD Nitrite-NEG Protein->300 
Glucose-100 Ketone-TR Bilirub-SM Urobiln-0.2 pH-5.0 Leuks-NEG
___ 10:40PM URINE ___ Bacteri-MOD Yeast-NONE 
___

PA AND LATERAL VIEWS OF THE CHEST (___): Lungs are clear 
without consolidation or pleural effusion. There is no 
pneumothorax. The heart size is normal. There is no hilar or 
mediastinal enlargement. Pulmonary vascularity is normal.  
Degenerative changes are noted in the spine. Surgical clips are 
present in the right upper quadrant. 

KUB (___): IMPRESSIONS: No evidence of radiopaque foreign 
body. Relatively gasless abdomen. 

CT ABDOMEN AND PELVIS (___): IMPRESSION: 
1. Fatty infiltration of the liver. 
2. Bilateral renal cysts. 
3. No evidence of colitis or diverticulitis. 
4. Possible calcification within the ovary versus calcified 
fibroid.  
Non-urgent outpatient pelvic ultrasound could be performed for 
further 
evaluation. 

 
Brief Hospital Course:
#. Nausea/vomiting/diarrhea: The patient's gastrointestinal 
symptoms had resolved by the night of her admission, and she 
experienced no further nausea, vomiting, or diarrhea. Given the 
rapid onset and rapid resolution of her symptoms with an 
unremarkable abdominal CT and high WBC count, she was believed 
to have suffered from gastroenterits, likely infectious from 
possible food source. Her elevated lactate level in the ED (4.5 
mmol/L) was believed to be secondary to dehydration and rapidly 
reversed with IV fluids.  She was discharged with a 5-day 
prescription for ciprofloxacin.

#. Syncope: Patient had unwitnessed syncopal event after having 
multiple loose BMs and n/v. Likely vaso-vagal episode in setting 
of severe dehydration from food-poisoning. She was monitored 
with telemetry and resuscitated with fluids and experienced no 
syncopal episodes during her stay.  No orthostatic hypotension.
.  
#. ARF: Ms. ___ baseline creatinine is roughly 0.7 but 
was elevated to 1.6 upon presentation. The etiology of the ___ 
was felt to be pre-renal given her copious vomiting and diarrhea 
and BUN/Cr ratio >20. Her creatinine gradually improved with 
fluid resuscitation to creatinine 1.1 just prior to discharge. 
Her quinapril and HCTZ were held due to her ARF.  She was 
discharged on her home medications, inluding her diabetes 
medication.
.  
#. Type 2 DM: The patient's blood glucose was initially 514 in 
the ED. She was given insulin and placed on an insulin sliding 
scale, which acheived appropriate blood sugar control. Her oral 
hypoglycemics were held due to her ___ and restarted on 
discharge.  
.  
#. CAD: Cardiac ischemia was ruled out by three sets of negative 
cardiac enzymes and an unchanged ECG. She was monitored on 
cardiac telemetry with no events. 
.  
#. Arthritis: Patient takes methotrexate on ___ and was 
admitted on a ___. She will decide with her doctors whether 
continuing ___ is appropriate.  

 
Medications on Admission:
Lipitor 5mg daily  
Quinapril 40mg daily  
Lantus 22U SQ QHS  
Calcium  
ASA 81mg daily  
MVI daily  
HCTZ 25mg daily  
Glyburide 5mg daily  
Methotrexate 17.5mg weekly (takes on ___  
Mometasone 0.1% Lotion apply to scalp at bedtime PRN  
Glucophage 1000mg BID  
Folate 400mcg daily  
Lopressor 50mg BID (discrepency with patient report)  
Neurontin 600mg TID (not verified)  

 
Discharge Medications:
1. Outpatient Lab Work
Please check a CBC and Chem-7 (sodium, potassium, chloride, 
bicarbonate, BUN, creatinine and glucose) on ___.
2. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. Atorvastatin 10 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
5. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Insulin Glargine 100 unit/mL Solution Sig: ___ (22) 
units Subcutaneous at bedtime.  
7. Advair Diskus 250-50 mcg/Dose Disk with Device Sig: One (1) 
puff Inhalation twice a day: please take as previously 
prescribed.  
8. Elocon 0.1 % Cream Sig: small amount Topical twice a day as 
needed: to affected area.  
9. Metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a day. 
 
10. Glyburide 5 mg Tablet Sig: One (1) Tablet PO once a day.  
11. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
12. Lopressor 50 mg Tablet Sig: One (1) Tablet PO twice a day.  
13. Quinapril 40 mg Tablet Sig: One (1) Tablet PO once a day.  
14. Methotrexate (Anti-Rheumatic) 2.5 mg Tablets, Dose Pack Sig: 
Seven (7) Tablets, Dose Pack PO once a week.  
15. Cipro 500 mg Tablet Sig: One (1) Tablet PO twice a day for 5 
days.
Disp:*10 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Gastroenteritis
2. Acute Renal Failure

Secondary Diagnoses:
1. Diabetes
2. Hypertension
3. Psoriatic Arthritis

 
Discharge Condition:
Hemodynamically stable.  Afebrile.  Tolerating oral intake.  
Asymptomatic.

 
Discharge Instructions:
You were admitted to the hospital due to vomitting, diarrhea and 
fainting.  It was determined that you were dehydrated and you 
were given IV fluids.  Imaging of your abdomen and lungs did not 
show any sign of infection or other process that could have 
caused your symptoms.  You were given antibiotics in the 
hospital because your blood work showed that you may have an 
infection.  You are being sent home on a 5-days of 
antibiotics--please make sure to complete your antibiotic 
course.  Please follow-up with your PCP after discharge. 

CHANGES IN MEDICATIONS:
START Cipro 500 mg by mouth twice a day
Please take all other medications as previously prescribed.

If you experience fever > 101, shortness of breath, chest pain, 
recurrence of nausea, vomitting, diarrhea, blood in your stool, 
bloody vomit, decrease in urine output, confusion, loss of 
conciousness or any other symptom that concerns you, please 
contact your PCP or go to the nearest emergency room for 
evaluations.
 
Followup Instructions:
___